US04237133
3,5-Dimethoxybenzylchloride
Over a period of 20 minutes a solution of 150 g (1.26 moles) of thionyl chloride in 0.65 l of ether was added to 100 g (0.59 moles) of 3,5-dimethoxybenzyl alcohol and 6.6 ml of pyridine in 1.35 l of ether. After stirring for 3 hr the solution containing the product was separated from the residual dark oil, concentrated, and the crude product was redissolved in 1 l of ether, washed with water (3×250 ml), dried (brine, magnesium sulfate), filtered, and reconcentrated to give a dark oil which was vacuum distilled: b.p. 115°-118° C. at 0.4 mm Hg. Upon standing, fractions containing the desired compound solidified to give 95.3 g (86%) of white solid, m.p. 43°-45° C.

reactant | thionyl chloride | 1.26 moles, 150 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3,5-dimethoxybenzyl alcohol | 0.59 moles, 100 g | COC=1C=C(CO)C=C(C1)OC | C9H12O3
reactant | pyridine | 6.6 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 0.65 l | CCOCC | C4H10O
solvent | ether | 1.35 l | CCOCC | C4H10O
product | 3,5-Dimethoxybenzylchloride | 95.3 g, 86% | COC=1C=C(CCl)C=C(C1)OC | C9H11ClO2
